US04072705
Preparation of 4'-chloro-4-hydroxybenzophenone
250 cc of DMSO and 4.8 g sodium hydride are placed in a 500 cc flask and heated at 70° C for 1 hour, by which time the solution has become clear. A solution of 24.2 g (0.2 mole) of benzaldoxime in 100 cc of DMSO is then added drop by drop. The solution is maintained at 70° C for 1 hour, then allowed to cool to 15° C. A solution of 26 g (0.1 mole) of 4'-chloro-4-nitrobenzophenone in 150 cc of DMSO is then added. The reaction mixture is stirred for 20 hours at ambient temperature and then poured into acidulated water. The mixture is extracted with ether and then with ether containing 2N caustic soda. On acidification the product is precipitated. Yield 15 g (65%). Melting point 178° C.

reactant | sodium hydride | 4.8 g | [H-].[Na+]
reactant | benzaldoxime | 0.2 mole, 24.2 g | C(C1=CC=CC=C1)=NO | C7H7NO
reactant | 4'-chloro-4-nitrobenzophenone | 0.1 mole, 26 g | ClC1=CC=C(C=C1)C(C1=CC=C(C=C1)[N+](=O)[O-])=O | C13H8ClNO3
reactant | water | O | H2O
solvent | DMSO | 100 cc | CS(=O)C | C2H6OS
solvent | DMSO | 150 cc | CS(=O)C | C2H6OS
solvent | DMSO | 250 cc | CS(=O)C | C2H6OS
product | 4'-chloro-4-hydroxybenzophenone | ClC1=CC=C(C=C1)C(C1=CC=C(C=C1)O)=O | C13H9ClO2
